US07723345B2
A mixture of 6-chloro-N-(1-naphthalen-2-yl-ethyl)-[1,3,5]triazine-2,2-diamine (90 mg, 0.300 mmol), 2-tert-butoxycarbonylamino-3-(4-hydroxy-phenyl)-propionic acid tert-butyl ester (102 mg, 0.303 mmol) and potassium carbonate (82 mg, 0.594 mmol) in isopropanol (8 ml) was refluxed over night. The solvent was removed under reduced pressure and the residue was suspended in ethyl acetate. The solid was filtered and washed with ethyl acetate. The filtrate was concentrated and then redissolved in a mixture of methanol/water (90:10) and purified by a preparative-LC using a Sunfire C18 OBD 100×30 mm ID column (MeOH/H2O/TFA solvent system). The pure fractions were combined and concentrated to give 50 mg of pure product, 3-{4-[4-amino-6-(1-naphthalen-2-yl-ethylamino)-[1,3,5]triazin-2yloxy]-phenyl}2-tert-butoxycarbonylamino-propionic acid tert-butyl ester, (28% yield).

reactant | 6-chloro-N-(1-naphthalen-2-yl-ethyl)-[1,3,5]triazine-2,2-diamine | 0.300 mmol, 90 mg | ClC1=NC=NC(N1)(NC(C)C1=CC2=CC=CC=C2C=C1)N | C15H16ClN5
reactant | 2-tert-butoxycarbonylamino-3-(4-hydroxy-phenyl)-propionic acid tert-butyl ester | 0.303 mmol, 102 mg | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C18H27NO5
reactant | potassium carbonate | 0.594 mmol, 82 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropanol | 8 ml | C(C)(C)O | C3H8O
product | 3-{4-[4-amino-6-(1-naphthalen-2-yl-ethylamino)-[1,3,5]triazin-2yloxy]-phenyl}2-tert-butoxycarbonylamino-propionic acid tert-butyl ester | 28% yield | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OC1=NC(=NC(=N1)N)NC(C)C1=CC2=CC=CC=C2C=C1)NC(=O)OC(C)(C)C)=O | C33H40N6O5
